US06177440B1
40% Methanolic Triton B (0.18 mL, 0.4 mM) was added to a solution of the 9-[(3-trifluoromethylphenyl)methyl]-4-hydroxy-5-carbamoyl carbazole (115 mg, 0.3 mM) in 5 mL DMF at room temperature. After 15 minutes, methyl bromoacetate (95 mg, 0.6 mM) was added and the resultant mixture stirred at room temperature for 22 hours. The mixture was diluted with ethyl acetate, washed four times with H2O, 1 N HCl, H2O, sat. NaHCO3, and saturated brine, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (elution with ethyl acetate) to afford 120 mg (88%) of the {9-[(3-trifluoromethylphenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester as a white solid. 1H NMR (CDCl3) δ 7.5-7.2 (m, 7H), 7.1 (d, 1H, J=8 Hz), 7.0 (d, 1H, J=8 Hz), 6.6 (d, 1H, J=8 Hz), 6.4 (br s, 1H), 6.0 (br s, 1H), 5.55 (s, 2H), 4.9 (s, 2H), and 3.9 (s, 3H). IR (KBr, cm−1) 1763 and 1673. MS (ES) m/e 457.

reactant | 9-[(3-trifluoromethylphenyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 0.3 mM, 115 mg | FC(C=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O)(F)F | C21H15F3N2O2
reactant | methyl bromoacetate | 0.6 mM, 95 mg | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {9-[(3-trifluoromethylphenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester | 120 mg, 88% | FC(C=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)OC)C(N)=O)(F)F | C24H19F3N2O4
